US08871753B2
Step I: 6-Chloro-12-(pyrrolidin-3-ylmethoxy)-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20), 3(22),4,6,9(21),10,12,16,18-nonaene trihydrochloride
Into the reaction was added tert-butyl 3-({[6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]oxy}methyl)pyrrolidine-1-carboxylate (0.024 g, 0.046 mmol), methanol (0.5 mL), and 4.0 M of hydrogen chloride in 1,4-dioxane (0.5 mL). The mixture was stirred at rt overnight and concentrated under vacuum to give the desired product (19 mg, 92%). LCMS for C22H24ClN6O (M+H)+: m/z=423.2.

reactant | tert-butyl 3-({[6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]oxy}methyl)pyrrolidine-1-carboxylate | 0.046 mmol, 0.024 g | ClC=1C=NC=2NC=3C=NC=C(CCC4=C(C=CC(NC1N2)=C4)OCC4CN(CC4)C(=O)OC(C)(C)C)C3 | C27H31ClN6O3
reactant | methanol | 0.5 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-12-(pyrrolidin-3-ylmethoxy)-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20), 3(22),4,6,9(21),10,12,16,18-nonaene trihydrochloride | 19 mg, 92% | Cl.Cl.Cl.ClC=1C=NC=2NC=3C=NC=C(CCC4=C(C=CC(NC1N2)=C4)OCC4CNCC4)C3 | InChI=1S/C22H23ClN6O.3ClH/c23-19-12-26-22-28-18-7-14(9-25-11-18)1-2-16-8-17(27-21(19)29-22)3-4-20(16)30-13-15-5-6-24-10-15;;;/h3-4,7-9,11-12,15,24H,1-2,5-6,10,13H2,(H2,26,27,28,29);3*1H
